US07671068B2
22. N—((S)-1-Benzyloxymethyl-3-methyl-butyl)-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-N-methyl-benzamide
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid and N—((S)-1-benzyloxymethyl-3-methyl-butyl)-N-methyl-amine as described for example 1.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)O)C=C2)C=C1OC | C23H26N2O4
reactant | N—((S)-1-benzyloxymethyl-3-methyl-butyl)-N-methyl-amine | C(C1=CC=CC=C1)OC[C@H](CC(C)C)NC | C14H23NO
product | N—((S)-1-Benzyloxymethyl-3-methyl-butyl)-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-N-methyl-benzamide | C(C1=CC=CC=C1)OC[C@H](CC(C)C)N(C(C1=CC=C(C=C1)C1=N[C@@H]2CCN(C[C@@H]2C2=C1C=C(C(=C2)OCC)OC)C)=O)C | C37H47N3O4
